US07795236B2
tert-Butyl N-(3′-hydroxybiphenyl-3-ylmethyl)carbamate
The title compound was prepared in a similar manner to that described in Reference Example 2 using tert-butyl N-(3-bromobenzyl)carbamate instead of tert-butyl N-(4-bromobenzyl)carbamate and 3-hydroxyphenylboronic acid instead of 3-benzyloxyphenylboronic acid.

reactant | tert-butyl N-(3-bromobenzyl)carbamate | BrC=1C=C(CNC(OC(C)(C)C)=O)C=CC1 | C12H16BrNO2
reactant | 3-hydroxyphenylboronic acid | OC=1C=C(C=CC1)B(O)O | C6H7BO3
product | tert-Butyl N-(3′-hydroxybiphenyl-3-ylmethyl)carbamate | OC=1C=C(C=CC1)C1=CC(=CC=C1)CNC(OC(C)(C)C)=O | C18H21NO3
